US05948911
Following the procedure of Example 1, the reaction of 3,4-dimethoxybenzylamine with 2,4dichloro-6-nitro-thieno-[2,3-d]-pyrimidine yields 2-chloro-6-nitro-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-dimethoxybenzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 2,4dichloro-6-nitro-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])Cl | C6HCl2N3O2S
product | 2-chloro-6-nitro-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC(=C(C=C2)OC)OC | C15H13ClN4O4S
